US07825103B2
(3-Ethoxypropyl)diisopropylsilane (61a)
1-Bromo-3-ethoxypropane (5.85 g, 35.0 mmol) was dissolved in THF (30 mL). Magnesium (900 mg, 37.0 mmol) and iodine (catalytic amount) were added thereto, and the resultant mixture was stirred at room temperature for 30 minutes and at 60° C. for 10 minutes. The resultant mixture was added dropwise to diisopropylchlorosilane (5.12 mL, 30.0 mmol) in THF (40 mL), followed by stirring at room temperature for 15 minutes and at 60° C. for 1.5 hours. Saturated aqueous ammonium chloride was added thereto, and the resultant mixture was extracted with pentane, followed by washing with water six times and drying over sodium sulfate anhydrate. The solvent was removed under reduced pressure, whereby the Compound 61a was obtained as an yellow liquid (6.52 g, 92%).

reactant | 1-Bromo-3-ethoxypropane | 35.0 mmol, 5.85 g | BrCCCOCC | C5H11BrO
reactant | Magnesium | 37.0 mmol, 900 mg | [Mg] | Mg
reactant | iodine | II | I2
reactant | diisopropylchlorosilane | 30.0 mmol, 5.12 mL | C(C)(C)[SiH](Cl)C(C)C | C6H15ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (3-Ethoxypropyl)diisopropylsilane | 6.52 g, 92% | C(C)OCCC[SiH](C(C)C)C(C)C | C11H26OSi
